US08334315B2
8.3 Synthesis of phenyl(3-tert-butyl-1-(3-chlorophenyl)-1H-pyrazol-5-yl)methylcarbamate (Employed for the Synthesis of Example Compound No. 78, 79, 80, 85, 98, 99, 100, 103, 104, 105, 106, 107, 108, 109, 111, 112, 113, 185, 187)
To a solution of (3-tert-butyl-1-(3-chlorophenyl)-1H-pyrazol-5-yl)methanamine (5 g, 0.018 mol) in DMF (25 ml, 5 times), potassium carbonate (9.16 g, 0.066 mol, 3.5 eq) was added and cooled the contents to 0° C. Then phenyl chloroformate (3.28 g (2.65 ml), 0.02 mol, 1.1 eq) was added drop wise for 15 min and the overall reaction mixture was stirred for another 15 min at 0° C. Progress of the reaction was monitored by TLC (20% ethyl acetate/hexane, Rf˜0.3). On completion of the reaction, reaction contents were filtered, filtrate was diluted with cold water (100 ml) and the product extracted with ethyl acetate (3×25 ml). Combined organic layer was washed with brine solution (100 ml), dried over sodium sulfate and concentrated under reduced pressure. Crude obtained was purified by column chromatography (silica gel, 10% ethyl acetate/hexane) to yield the required product as a white solid (3.2 g, 45% yield).

reactant | (3-tert-butyl-1-(3-chlorophenyl)-1H-pyrazol-5-yl)methanamine | 0.018 mol, 5 g | C(C)(C)(C)C1=NN(C(=C1)CN)C1=CC(=CC=C1)Cl | C14H18ClN3
reactant | potassium carbonate | 0.066 mol, 9.16 g, 3.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | phenyl chloroformate | 0.02 mol, 2.65 ml, 3.28 g, 1.1 eq | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | phenyl(3-tert-butyl-1-(3-chlorophenyl)-1H-pyrazol-5-yl)methylcarbamate | 3.2 g, 45% yield | C1(=CC=CC=C1)OC(NCC1=CC(=NN1C1=CC(=CC=C1)Cl)C(C)(C)C)=O | C21H22ClN3O2
